US05166152
8-Tert-butoxycarbonyl-1,4-dihydro-1-phenyl-[1]-benzothiopyrano [4,3-c]pyrazole-3-carboxylic acid ethyl ester (11.9 g), prepared according to Example 8, is treated under stirring with trifluoroacetic acid (132 ml) at room temperature for 3 hours. The reaction mixture is diluted with ice water and the precipitate is filtered and washed with water until neutral. Crystallization from isopropanol yields 3-ethoxycarbonyl-1,4-dihydro-1-phenyl-[1]-benzothiopyrano[4,3-c]pyrazole-8-carboxylic acid, m.p. 222°-225° C. (9.2 g), which is reacted with thionyl chloride (5.3 ml) in anhydrous dioxane (90 ml) at the reflux temperature for 2 hours. After cooling, the solution is evaporated to dryness in vacuo and the residue, 3-ethoxycarbonyl-1,4-dihydro-1-phenyl-[1]-benzothiopyrano [4,3-c]pyrazole-8-carbonyl chloride, is dissolved in anhydrous diglyme (100 ml) and added dropwise, under inert atmosphere, to a stirred solution of lithium tri-tert-butoxyaluminum hydride (15.4 g) in anhydrous diglyme (90 ml) in such a way as to maintain the temperature between 9° C. and 4° C. The reaction mixture is allowed to react at about 0° C. under stirring for 1 hour and then is diluted with ice water, acidified to pH 1 with 23% HCl and extracted with chloroform. The organic solution is washed with water and then evaporated to dryness in vacuo. The residue is purified over a SiO2 column using hexane/ethyl acetate 7/3 as eluent, Crystallization from CH2Cl2 /isopropyl ether yields pure 1,4-dihydro-8-hydroxymethyl-1-phenyl-[1]-benzothiopyrano[4,3-c]pyrazole-3-carboxylic acid ethyl ester, m.p. 160°-162° C. (4.2 g), which is reacted with 2-methoxyethoxymethyl chloride (2.13 g) in methylene chloride (60 ml) in the presence of diisopropylethylamine (2.96 ml) at room temperature for 20 hours. The reaction mixture is washed in a separatory funnel first with 5% Na2HPO4 solution and then with water until neutral. The organic phase is evaporated to dryness in vacuo and the residue is crystallized from isopropyl ether to yield 1,4-dihydro-8-(2-methoxyethoxymethoxy)methyl-1-phenyl-[1]-benzothiopyrano[4,3-c]pyrazole-3-carboxylic acid ethyl ester, m.p. 66°-68° C. (5 g), which is treated with KOH (0.4 g) in 95% ethanol (52 ml) under stirring at 45° C. for 40 minutes. The reaction mixture is then diluted with ice water and acidified to pH 4 with citric acid. The precipitate is filtered, washed with water until neutral and dried in vacuo at 80° C. to yield 1,4-dihydro-8-(2-methoxyethoxymethoxy)-methyl-1-phenyl-[1]-benzothiopyrano[4,3-c]pyrazol-3-carboxylic acid, m.p. 136°-139° C. (4.26 g), which is dissolved in anhydrous dioxane (50 ml) and reacted with oxalyl chloride (1.9 ml) in the presence of dimethylformamide (11 mg) at room temperature for 1 hour. The reaction mixture is evaporated to dryness in vacuo and the residue, crude 1,4-dihydro-8-(2-methoxyethoxymethoxy)methyl-1-phenyl-[1]-benzothiopyrano[4,3-c]pyrazole-3-carbonyl chloride, is dissolved in anhydrous dioxane (50 ml) and reacted for 1 hour under stirring at room temperature with the carbanion obtained by treatment of cyano-acetanilide (1.76 g) with 50% sodium hydride (0.6 g) in anhydrous dioxane (140 ml). The reaction mixture is then diluted with ice water and acidified to pH 3 with 2N HCl.

reactant | 8-Tert-butoxycarbonyl-1,4-dihydro-1-phenyl-[1]-benzothiopyrano [4,3-c]pyrazole-3-carboxylic acid ethyl ester | 11.9 g | C(C)OC(=O)C=1C2=C(N(N1)C1=CC=CC=C1)C1=C(SC2)C=CC(=C1)C(=O)OC(C)(C)C | C24H24N2O4S
reactant | trifluoroacetic acid | 132 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-ethoxycarbonyl-1,4-dihydro-1-phenyl-[1]-benzothiopyrano[4,3-c]pyrazole-8-carboxylic acid | C(C)OC(=O)C=1C2=C(N(N1)C1=CC=CC=C1)C1=C(SC2)C=CC(=C1)C(=O)O | C20H16N2O4S
